US06596719B1
2 g 5-(o-methoxyphenoxy)-4,6-dichloro-2-(4-pyridyl)-pyrimidine was dissolved in 30 ml dry DMSO. 2.40 g p-toluene-sulfonamide potassium salt was added and stirring continued for 20 h. The reaction mixture was poured onto 200 ml water and extracted twice with 200 ml diethylether. The combined organic layers were extracted twice with 50 ml water. The combined water layers were acidified by acetic acid to pH=4. The precipitated product was filtered off, washed with ether and dried under reduced pressure. 1.9 g p-methyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]benzene-sulfonamide was obtained as a slightly colored solid. Rf (EA/Hex=1/1)=0.15.

reactant | 5-(o-methoxyphenoxy)-4,6-dichloro-2-(4-pyridyl)-pyrimidine | 2 g | COC1=C(OC=2C(=NC(=NC2Cl)C2=CC=NC=C2)Cl)C=CC=C1 | C16H11Cl2N3O2
reactant | p-toluene-sulfonamide potassium salt | 2.40 g | [K+].C1(=CC=C(C=C1)S(=O)(=O)[NH-])C
reactant | water | 200 ml | O | H2O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | p-methyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]benzene-sulfonamide | 1.9 g | CC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=CC=NC=C1 | C23H19ClN4O4S
